US07759337B2
To a solution of 2-fluoro-3-iodo4-methylbenzaldehyde oxime (0.48 g, 1.7 mmol) in DMF (0.5 mL) was added N-chlorosuccinimide (83 mg, 0.62 mmol) and the mixture was heated at 55° C. for 5 min. The mixture was allowed to cool to <50° C., an additional N-chlorosuccinimide (166 mg, 1.24 mmol) was added, then it was heated at 55° C. for 10 min. The reaction mixture was allowed to cool to RT, treated with water (5 mL), and extracted with ethyl acetate (3×20 mL). The combined ethyl acetate layers were washed with brine, dried and concentrated to afford the intermediate, 2-fluoro-3-iodo-4-methylbenzoyl chloride oxime as a light yellow amorphous solid, which was used without further purification. MS (ESI, pos. ion) m/z: 314.3 (M+1). Cyclopropylamine (0.60 mL, 8.6 mmol) was added dropwise to an ice-cold solution of the above obtained 2-fluoro-3-iodo-4-methylbenzoyl chloride oxime in anhydrous THF (2 mL). The reaction mixture was stirred at ambient for 3 h. The volatiles were removed under reduced pressure and the residue purified on a 40 g ISCO column (eluted with 25-60% ethyl acetate in Hexanes) to provide the title compound as an amorphous off-white solid. MS (ESI, pos. ion) m/z: 335.0 (M+1).

reactant | 2-fluoro-3-iodo4-methylbenzaldehyde oxime | 1.7 mmol, 0.48 g | FC1=C(C=NO)C=CC(=C1I)C | C8H7FINO
reactant | N-chlorosuccinimide | 0.62 mmol, 83 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | N-chlorosuccinimide | 1.24 mmol, 166 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
reactant | water | 5 mL | O | H2O
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 2-fluoro-3-iodo-4-methylbenzoyl chloride oxime | FC1=C(C(Cl)=NO)C=CC(=C1I)C | C8H6ClFINO
